US06790860B2
250 mg (0.56 mmol) (2S,4R)—C-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methylamine and 58 μl (0.5 mmol) o-tolualdehyde in 1 ml MeOH were treated with a solution of 57 mg (0.3 mmol, 0.6 eq) SnCl2 and 38 mg (0.6 mmol, 1.2 eq) NaBH3CN in 1 ml MeOH at room temperature and subsequent cleavage of the protecting group (Method 3) gave (3R,5S)-5-[(2-methyl-benzylamino)-methyl]-1-(naphthalene-2-sulfonyl)-pyrrolidine-3-thiol as white solid, mp 122° C., MS: 427 (MH+).

reactant | (2S,4R)—C-[1-(naphthalene-2-sulfonyl)-4-tritylsulfanyl-pyrrolidin-2-yl]-methylamine | 0.56 mmol, 250 mg | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1[C@@H](C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN | C34H32N2O2S2
reactant | o-tolualdehyde | 0.5 mmol, 58 μl | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | SnCl2 | 0.3 mmol, 57 mg, 0.6 eq | Cl[Sn]Cl
reactant | NaBH3CN | 0.6 mmol, 38 mg, 1.2 eq | [BH3-]C#N.[Na+]
solvent | MeOH | 1 ml | CO | CH4O
solvent | MeOH | 1 ml | CO | CH4O
product | (3R,5S)-5-[(2-methyl-benzylamino)-methyl]-1-(naphthalene-2-sulfonyl)-pyrrolidine-3-thiol | CC1=C(CNC[C@@H]2C[C@H](CN2S(=O)(=O)C2=CC3=CC=CC=C3C=C2)S)C=CC=C1 | C23H26N2O2S2
